US07138529B2
Step 1: Preparation of 3-methyl-2-phenylbutyryl chloride
To a stirred solution of 3-methyl-2-phenylbutyric acid (891 mg; 5.0 mmol) and a catalytic amount of dry dimethylformamide (ca. 10 uL) in 10 mL of dry methylene chloride under nitrogen at room temperature was added oxalyl chloride (0.65 mL; 7.5 mmol) dropwise. After 1 hour, the mixture was concentrated in vacuo and used immediately for Step 2.

reactant | 3-methyl-2-phenylbutyric acid | 5.0 mmol, 891 mg | CC(C(C(=O)O)C1=CC=CC=C1)C | C11H14O2
reactant | dimethylformamide | ca. 10 uL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 7.5 mmol, 0.65 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-methyl-2-phenylbutyryl chloride | CC(C(C(=O)Cl)C1=CC=CC=C1)C | C11H13ClO
